US05166204
20.3 g of ethyltriphenylphosphonium iodide was suspended in 160 ml of diethyl ether. Thereto was dropwise added 29.4 ml of 1.5 M n-butyllithium hexane solution, in 2 minutes with stirring at 0° C. Then, the mixture was stirred at 20° C. for 1 hour. To the resulting mixture being maintained at 10°-15° C. was dropwise added a solution of 8.4 g of 4-(2-nitrophenyl)-3-buten-2-one dissolved in 40 ml of diethyl ether, in 30 minutes. The resulting mixture was stirred at 20° C. for 3 hours. Thereto was added 100 ml of water. The organic layer was separated. The aqueous layer was extracted with 100 ml of diethyl ether, and the extract was combined with the previously separated organic layer. The combined solution was washed with an aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: n-hexane/ethyl acetate=5/1) to obtain 3.8 g (yield: 42%) of 1-(3-methyl-1,3-pentadienyl)-2-nitrobenzene as a light yellow oily material.

reactant | n-butyllithium hexane | 1.5 M, 29.4 ml | CCCCCC.C(CCC)[Li]
reactant | 4-(2-nitrophenyl)-3-buten-2-one | 8.4 g | [N+](=O)([O-])C1=C(C=CC=C1)C=CC(C)=O | C10H9NO3
reactant | water | 100 ml | O | H2O
catalyst | ethyltriphenylphosphonium iodide | 20.3 g | [I-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | 160 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 1-(3-methyl-1,3-pentadienyl)-2-nitrobenzene | 3.8 g, yield: 42% | CC(C=CC1=C(C=CC=C1)[N+](=O)[O-])=CC | C12H13NO2
